US04535087
2,6-dichlorothiophenol, 50.0 gm, was added to 250 ml of ethanol. 63.8 ml of a 25% solution of sodium methoxide (2 equivalents) in methanol was then added to the system. The system was stirred at room temperature for approximately 3 hours. Afterwards, 20 ml of bromoacetic acid was added and the system was then heated to reflux. The system was continued at reflux for 16 hours. The reaction was then stopped and the solvent removed by stripping. The resulting material was dissolved with a basic aqueous solution and then washed with methylene chloride. Concentrated HCl was next added to the aqueous solution to acidify it. The product was extracted with methylene chloride. The methylene chloride solution was stripped and then triturated with hexane. The product was then filtered, washed with water and air dried to yield 55.3 gm of the 2,6-dichlorothiophenoxyacetic acid.

reactant | 2,6-dichlorothiophenol | ClC1=C(C(=CC=C1)Cl)S | C6H4Cl2S
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | sodium methoxide | 2 equivalents | C[O-].[Na+]
reactant | bromoacetic acid | 20 ml | BrCC(=O)O | C2H3BrO2
solvent | methanol | CO | CH4O
product | 2,6-dichlorothiophenoxyacetic acid | 55.3 gm | ClC1=C(SCC(=O)O)C(=CC=C1)Cl | C8H6Cl2O2S
